Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[C:1](=[O:2])[c:3]1[cH:4][cH:5][cH:6][n:7][c:8]1-[c:9]1[cH:10][s:11][c:12](-[c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[n:19]1.[CH3:20][CH2:21][O:22][C:23](=[O:24])[CH:25]([OH:26])[CH:27]([NH3+:28])[CH2:29][c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][cH:6][n:7][c:8]1-[c:9]1[cH:10][s:11][c:12](-[c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[n:19]1)[NH:28][CH:27]([CH:25]([C:23]([O:22][CH2:21][CH3:20])=[O:24])[OH:26])[CH2:29][c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1,[OH:101][C:1](=[O:2])[c:3]1[cH:4][cH:5][cH:6][n:7][c:8]1-[c:9]1[cH:10][s:11][c:12](-[c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[n:19]1.[CH3:20][CH2:21][O:22][C:23](=[O:24])[CH:25]([OH:26])[CH:27]([NH2:28])[CH2:29][c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([c:3]1[cH:4][cH:5][cH:6][n:7][c:8]1-[c:9]1[cH:10][s:11][c:12](-[c:13]2[cH:14][cH:15][cH:16][cH:17][cH:18]2)[n:19]1)[NH:28][CH:27]([CH:25]([C:23]([O:22][CH2:21][CH3:20])=[O:24])[OH:26])[CH2:29][c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (28, 1), ([1, 2], 2), (303, 28.1), ([28.1, 28], 28), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[CH3:1][C:2]([CH3:3])([CH3:4])[N:5]=[C:6]=[O:7].[NH2:8][CH2:9][C@H:10]1[CH2:11][C@@H:12]([n:13]2[cH:14][c:15](-[c:16]3[cH:17][cH:18][cH:19][c:20]([O:21][CH2:22][c:23]4[cH:24][cH:25][cH:26][cH:27][cH:28]4)[cH:29]3)[c:30]3[c:31]([NH2:32])[n:33][cH:34][n:35][c:36]23)[CH2:37]1>>[CH3:1][C:2]([CH3:3])([CH3:4])[NH:5][C:6](=[O:7])[NH:8][CH2:9][C@H:10]1[CH2:11][C@@H:12]([n:13]2[cH:14][c:15](-[c:16]3[cH:17][cH:18][cH:19][c:20]([O:21][CH2:22][c:23]4[cH:24][cH:25][cH:26][cH:27][cH:28]4)[cH:29]3)[c:30]3[c:31]([NH2:32])[n:33][cH:34][n:35][c:36]23)[CH2:37]1,[NH2:8][CH2:9][C@H:10]1[CH2:11][C@@H:12]([n:13]2[cH:14][c:15](-[c:16]3[cH:17][cH:18][cH:19][c:20]([O:21][CH2:22][c:23]4[cH:24][cH:25][cH:26][cH:27][cH:28]4)[cH:29]3)[c:30]3[c:31]([NH2:32])[n:33][cH:34][n:35][c:36]23)[CH2:37]1.[CH3:1][C:2]([CH3:3])([CH3:4])[N:5]=[C:6]=[O:7]>>[CH3:1][C:2]([CH3:3])([CH3:4])[NH:5][C:6](=[O:7])[NH:8][CH2:9][C@H:10]1[CH2:11][C@@H:12]([n:13]2[cH:14][c:15](-[c:16]3[cH:17][cH:18][cH:19][c:20]([O:21][CH2:22][c:23]4[cH:24][cH:25][cH:26][cH:27][cH:28]4)[cH:29]3)[c:30]3[c:31]([NH2:32])[n:33][cH:34][n:35][c:36]23)[CH2:37]1,nucleophilic_attack_to_iso(thio)cyanate,"[(8, 6), ([6, 7], 7), (7, 8.1), ([8.1, 8], 8), (7, [7, 6]), ([6, 5], 5), (5, 7.1), ([7.1, 7], 7)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1](=[O:2])[c:3]1[cH:4][nH:5][c:6]2[c:7](-[c:8]3[c:9]([O:10][CH2:11][CH:12]4[CH2:13][CH2:14]4)[cH:15][cH:16][c:17]4[c:18]3[O:19][CH2:20][O:21]4)[n:22][cH:23][n:24][c:25]12.[CH3:26][O:27][c:28]1[cH:29][cH:30][c:31]([C:32]2=[N:33][N:34]([CH:35]3[CH2:36][CH2:37][N:38]([C:39](=[O:40])[C@@H:41]([NH2:42])[CH2:43][c:44]4[cH:45][s:46][cH:47][n:48]4)[CH2:49][CH2:50]3)[C:51](=[O:52])[C@@H:53]3[CH2:54][CH2:55][CH2:56][CH2:57][C@H:58]23)[cH:59][c:60]1[O:61][CH3:62]>>[C:1](=[O:2])([c:3]1[cH:4][nH:5][c:6]2[c:7](-[c:8]3[c:9]([O:10][CH2:11][CH:12]4[CH2:13][CH2:14]4)[cH:15][cH:16][c:17]4[c:18]3[O:19][CH2:20][O:21]4)[n:22][cH:23][n:24][c:25]12)[NH:42][C@H:41]([C:39]([N:38]1[CH2:37][CH2:36][CH:35]([N:34]2[N:33]=[C:32]([c:31]3[cH:30][cH:29][c:28]([O:27][CH3:26])[c:60]([O:61][CH3:62])[cH:59]3)[C@@H:58]3[C@H:53]([C:51]2=[O:52])[CH2:54][CH2:55][CH2:56][CH2:57]3)[CH2:50][CH2:49]1)=[O:40])[CH2:43][c:44]1[cH:45][s:46][cH:47][n:48]1,[CH3:26][O:27][c:28]1[cH:29][cH:30][c:31]([C:32]2=[N:33][N:34]([CH:35]3[CH2:36][CH2:37][N:38]([C:39](=[O:40])[C@@H:41]([NH2:42])[CH2:43][c:44]4[cH:45][s:46][cH:47][n:48]4)[CH2:49][CH2:50]3)[C:51](=[O:52])[C@@H:53]3[CH2:54][CH2:55][CH2:56][CH2:57][C@H:58]23)[cH:59][c:60]1[O:61][CH3:62].[OH:101][C:1](=[O:2])[c:3]1[cH:4][nH:5][c:6]2[c:7](-[c:8]3[c:9]([O:10][CH2:11][CH:12]4[CH2:13][CH2:14]4)[cH:15][cH:16][c:17]4[c:18]3[O:19][CH2:20][O:21]4)[n:22][cH:23][n:24][c:25]12.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([c:3]1[cH:4][nH:5][c:6]2[c:7](-[c:8]3[c:9]([O:10][CH2:11][CH:12]4[CH2:13][CH2:14]4)[cH:15][cH:16][c:17]4[c:18]3[O:19][CH2:20][O:21]4)[n:22][cH:23][n:24][c:25]12)[NH:42][C@H:41]([C:39]([N:38]1[CH2:37][CH2:36][CH:35]([N:34]2[N:33]=[C:32]([c:31]3[cH:30][cH:29][c:28]([O:27][CH3:26])[c:60]([O:61][CH3:62])[cH:59]3)[C@@H:58]3[C@H:53]([C:51]2=[O:52])[CH2:54][CH2:55][CH2:56][CH2:57]3)[CH2:50][CH2:49]1)=[O:40])[CH2:43][c:44]1[cH:45][s:46][cH:47][n:48]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (42, 1), ([1, 2], 2), (303, 42.1), ([42.1, 42], 42), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
